US06716849B1
a) 2-Hydroxymethyl-1H-pyrido[2,3-d]imidazole
using a Dan-Stark separator, 2,3-diaminopyridine (54.6 g; 0.5 mol) and glycolic acid (38 g; 0.5 mol) in 700 ml of mesitylene were boiled under reflux until the calculated amount of water had separated off. The mixture was then cooled to room temperature, and the resulting precipitate was filtered off with suction and, with addition of activated carbon, boiled in 800 ml of water for 15 min. The hot suspension was filtered and once more cooled to room temperature, and the colourless crystals that precipitated out were filtered off with suction and dried. Yield: 56.4 g (75%).

reactant | 2,3-diaminopyridine | 0.5 mol, 54.6 g | NC1=NC=CC=C1N | C5H7N3
reactant | glycolic acid | 0.5 mol, 38 g | C(CO)(=O)O | C2H4O3
reactant | water | O | H2O
solvent | mesitylene | 700 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 2-Hydroxymethyl-1H-pyrido[2,3-d]imidazole | OCC=1NC2=C(N1)N=CC=C2 | C7H7N3O
